US06117898
(a) 5-Nitro-2-(phenylmethyl)aminoindane hydrochloride
To 5-nitro-2-aminoindane hydrochloride (3.00 g, 14.00 mmol) in DMF (60 ml) was added triethylamine (4.07 ml, 29.40 mmol) followed by benzyl bromide (1.74 ml, 14.68 mmol). The mixture was warmed to room temperature, stirred for 1 hr, dumped into water (200 ml), and extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water, dried over magnesium sulfate, filtered through a small plug of silica gel and reduced to a syrup. The sub-titled compound was isolated as the hydrochloride salt: (2.29 g, 54%); m.p. dec 266° C.

reactant | 5-nitro-2-aminoindane hydrochloride | 14.00 mmol, 3.00 g | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)N
reactant | triethylamine | 29.40 mmol, 4.07 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 14.68 mmol, 1.74 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 200 ml | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 5-Nitro-2-(phenylmethyl)aminoindane hydrochloride | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)NCC1=CC=CC=C1 | InChI=1S/C16H16N2O2.ClH/c19-18(20)16-7-6-13-8-15(9-14(13)10-16)17-11-12-4-2-1-3-5-12;/h1-7,10,15,17H,8-9,11H2;1H
